US05739345
5-{4-(3-Methylimidazo[5,4-b]pyridin-2-ylmethoxy)-benzyl}thiazolidine-2,4-dione (Compound No. 1-93)
A procedure similar to that described in Example 6 was repeated, except that 500 mg of 5-[4-(3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 16), 1 g of 10% w/w palladium-on-charcoal and 100 ml of methanol were used, to give 77 mg of the title compound, melting at 223°-225° C.

reactant | 5-[4-(3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 500 mg | CN1C(=NC=2C1=NC=CC2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C37H30N4O3S
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 5-{4-(3-Methylimidazo[5,4-b]pyridin-2-ylmethoxy)-benzyl}thiazolidine-2,4-dione | 77 mg | CN1C(=NC=2C1=NC=CC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C18H16N4O3S
